US04182624
In the manner described in Example (1a) 36.9 g (0.01 mol) of 2-(benzhydrylformyl)-amino-3-oxo-succinic acid dimethyl ester (prepared by reacting (benzhydrylformyl)-aminoacetic acid methyl ester with oxalic acid dimethyl ester in the presence of sodium methylate) were reacted with 18 g of potassium thiocyanate for 48 hours at 50° C. The 1-benzhydryl-2-mercapto-4,5-dimethoxycarbonyl-imidazole formed crystallized on adding hexane. Yield 33.2 g (87% of the theory), m.p. 154° C.

reactant | 2-(benzhydrylformyl)-amino-3-oxo-succinic acid dimethyl ester | COC(C(C(C(=O)OC)=O)(C(=O)C(C1=CC=CC=C1)C1=CC=CC=C1)N)=O | C20H19NO6
reactant | (benzhydrylformyl)-aminoacetic acid methyl ester | COC(C(N)C(=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO3
reactant | oxalic acid dimethyl ester | COC(C(=O)OC)=O | C4H6O4
reactant | sodium methylate | C[O-].[Na+]
reactant | potassium thiocyanate | 18 g | [S-]C#N.[K+]
product | 1-benzhydryl-2-mercapto-4,5-dimethoxycarbonyl-imidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC(=C1C(=O)OC)C(=O)OC)S | C20H18N2O4S
